US05194389
a) 5-decyloxy-1-naphthol
12 g (0.3 Mol) sodium hydroxide are dissolved while heating in 500 ml ethanol and a solution of 25 g (0.15 Mol) 1,5-dihydroxynaphthalene 97% is added to the cooled solution within 20 minutes. Afterwards 40.23 g (0.15 Mol) n-decyl iodide is added dropwise within 20 minutes and it is subsequently boiled for 4 hours under reflux. After aspiration of the inorganic residue, the filtrate is concentrated in a vacuum and the dark-brown, semi-crystalline residue is purified by column chromatography on silica gel 60 (Merck). Mobile solvent: toluol/methanol=7:1. After recrystallization from n-heptane the corresponding eluate yields 11.5 g (25.3% of the theroretical yield) product, light-brown crystals, Fp 85°-87° C.

reactant | sodium hydroxide | 0.3 Mol, 12 g | [OH-].[Na+]
reactant | 1,5-dihydroxynaphthalene | 0.15 Mol, 25 g | OC1=CC=CC2=C(C=CC=C12)O | C10H8O2
reactant | n-decyl iodide | 0.15 Mol, 40.23 g | C(CCCCCCCCC)I | C10H21I
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 5-decyloxy-1-naphthol | C(CCCCCCCCC)OC1=C2C=CC=C(C2=CC=C1)O | C20H28O2
